Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
Ear pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of chronic nasal congestion, hypertension,
hyperlipidemia, GERD, and seasonal allergies, who initially
presented to Urgent Care with persistent right ear pain and
drainage, subsequently transferred to ___ for further
evaluation.

Patient has chronic issues with nasal congestion, sinusitis, and
reduced hearing, for which he follows with ENT at ___. 
However,
on ___, he reports developing a sensation of right ear 
blockage
with associated further reduction in hearing and pain. Evaluated
by his PCP ___ ___ who felt his presentation was consistent 
with
acute otitis externa and prescribed ciprofloxacin eardrops BID
for seven days. Although he initially noticed some improvement 
in
his symptoms, upon completion of course of ear drops, symptoms
recurred, this time with additional discharge of yellow colored
fluid. Presented to Urgent Care on ___ no evidence of
mastoiditis or signs of malignant otitis externa. Given the
degree of edema an ear wick was placed, and patient was
prescribed a further course of ciprofloxacin ear drops, in
addition to oral ciprofloxacin. Over the subsequent two days,
right ear pain persisted, with continued discharge, occasionally
mixed with small amounts of blood. Also developed some mild pain
behind his right ear over these two days. Represented to Urgent
Care; given persistent and worsening symptoms, and concern for
more severe infection, he was referred to ___ ED for further
evaluation. Of note, reported subjective fever/chills over the
past few days, however did not measure his temperature.

In the ED, initial VS were notable for;
Temp 98.7  HR 79  BP 146/69  RR 16  SaO2 97% RA

Examination notable for;
Sitting comfortably in chair, left ear canal clear, right ear
canal with white purulent discharge blocking view of ear drum,
mild erythema behind right ear with associated mild tenderness
with palpation, throat clear, no LAD.

Labs were notable for;
WBC 6.4  Hgb 14.8  Plt 285
___ 12.1  PTT ___  INR 1.1
Na 138  K 4.2  Cl 103  HCO3 27  BUN 16  Cr 0.7  AnGap 8

CT orbits with contrast demonstrated cerumen within the right
external auditory canal, the middle ear cavity is clear, there 
is
mild partial opacification of less than 50% of the mastoid air
cells, which could be infectious or inflammatory, the tegmen
tympani is preserved, no fracture is seen, left ear normal.

Patient was given;
- IV Unasyn 3g

Vital signs on transfer notable for;
Temp 97.7  HR 62  BP 141/75  RR 18  SaO2 99% RA

Upon arrival to the floor, patient repeats the above story.
Currently his pain is still present, although slightly improved. 


 
Past Medical History:
-HTN
-Hypercholesterolemia
-GERD
-Eczema
-Gout 
-Allergic rhinitis
-Carpal tunnel syndrome  
 
Social History:
___
Family History:
M: HTN
F: HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: Temp: 98.0 BP: 163/84 HR: 61 RR: 16 SaO2 100% RA

GENERAL: sitting comfortably in bed, no acute distress
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM,
right ear canal erythematous with purulent discharge in canal,
unable to see TM, mild erythema in postauricular region, mild
tenderness with palpation of same area and pinna, left ear 
normal
NECK: supple, non-tender, no cervical LAD
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, moving all four extremities with purpose, CNs
grossly intact

DISCHARGE PHYSICAL EXAM:
=========================
VS: 24 HR Data (last updated ___ @ 739)
    Temp: 97.7 (Tm 98.0), BP: 112/66 (112-163/66-84), HR: 65
(56-65), RR: 18 (___), O2 sat: 98% (98-100), O2 delivery: Ra  
GENERAL: lying in bed, appears comfortable
HEENT: R ear erythematous with clear yellow drainage 
appreciated,
no lymphadenopathy appreciated, oropharynx is clear
NEURO: AAox3, grossly intact
 
Pertinent Results:
___ 03:50PM BLOOD WBC-6.4 RBC-4.98 Hgb-14.8 Hct-43.6 MCV-88 
MCH-29.7 MCHC-33.9 RDW-13.2 RDWSD-41.8 Plt ___
___ 03:50PM BLOOD Neuts-66.0 ___ Monos-9.1 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-4.21 AbsLymp-1.44 AbsMono-0.58 
AbsEos-0.10 AbsBaso-0.03
___ 03:50PM BLOOD Glucose-112* UreaN-16 Creat-0.7 Na-138 
K-4.2 Cl-103 HCO3-27 AnGap-8*
 
Brief Hospital Course:
___ ___ chronic nasal congestion and seasonal allergies who
presented to urgent care for persistent otitis externa referred
in the ___ ED where he was admitted to the general medical 
service for ENT evaluation. ENT evaluated him and on exam saw a 
perforated tympanic membrane with drainage, suggested he likely 
had ruptured otitis media. He was continued on cipro ear drops 
and given IV Unasyn while inpatient. ENT recommended he continue 
the cipro ear drops for 14d and be given a 14d course of 
augmentin and will then follow up in their clinic.

Transitional Issues:
[ ] Last day of antibiotics is ___
[ ] Follow up in ___ clinic to assess for improvement/resolution

The total time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO DAILY 
2. NIFEdipine (Extended Release) 60 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Fluticasone Propionate NASAL 2 SPRY NU BID 
5. Loratadine 10 mg PO DAILY 
6. Pantoprazole 20 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*26 Tablet Refills:*0 
3.  Ciprofloxacin 0.3% Ophth Soln 3 DROP BOTH EARS BID Right ear 

RX *ciprofloxacin HCl 0.2 % 3 drops in the right ear twice a day 
Disp #*1 Bottle Refills:*0 
4.  Fluticasone Propionate NASAL 2 SPRY NU BID  
5.  Loratadine 10 mg PO DAILY  
6.  Metoprolol Succinate XL 100 mg PO DAILY  
7.  NIFEdipine (Extended Release) 60 mg PO DAILY  
8.  Pantoprazole 20 mg PO Q12H  
9.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Otitis media

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,

Please read the following information about your recent 
hospitalization:

WHY WAS I HOSPITALIZED?
You had an ear infection

WHAT WAS DONE FOR ME WHILE I WAS IN THE HOSPITAL?
The ear nose and throat doctors ___ and it looks like 
you have an infection in your middle ear. This will be treated 
with ear drops and oral antibiotics. 

WHAT SHOULD I DO WHEN I GO HOME?
Please attend your follow up appointments as listed below
Please take all of your medications as prescribed. The last day 
of antibiotics is ___

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___